US08703768B2
Step 1: 5-Amino-pyrimidine-4-carboxylic acid (2-hydroxy-2-methyl-propyl)-amide
To a stirred mixture of 5-aminopyrimidine-4-carboxylic acid (200 mg, 1.44 mmol) and 1-amino-2-methylpropan-2-ol (128 mg, 1.44 mmol) at rt in THF (5 ml) under an argon atmosphere were added N-ethyldiisoproplyamine (743 mg, 978 μl, 5.75 mmol) and 1-propanephosphonic acid cyclic anhydride (2.29 g, 2.16 ml, 3.59 mmol). The mixture was stirred at rt for 21 hrs, then concentrated. The crude product was purified by column chromatography with EtOAc/MeOH as eluent providing the title compound (216 mg, 72%) as off-white solid.

reactant | 5-aminopyrimidine-4-carboxylic acid | 1.44 mmol, 200 mg | NC=1C(=NC=NC1)C(=O)O | C5H5N3O2
reactant | 1-amino-2-methylpropan-2-ol | 1.44 mmol, 128 mg | NCC(C)(O)C | C4H11NO
reactant | N-ethyldiisoproplyamine | 5.75 mmol, 978 μl, 743 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-propanephosphonic acid cyclic anhydride | 3.59 mmol, 2.16 ml, 2.29 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-Amino-pyrimidine-4-carboxylic acid (2-hydroxy-2-methyl-propyl)-amide | 216 mg, 72% | OC(CNC(=O)C1=NC=NC=C1N)(C)C | C9H14N4O2
